US05116941
After 2.25 g (5.0 mmols) of HCl.H-Pro-Arg(NO2)-CHA was dissolved in 10 ml (15.0 mmols) of 1.5N NEM/DMF, 1.93 g (5.0 mmols) of Z-PyroGlu-SDP was added to the solution at 0° to 5° C. The resulting mixture was reacted at room temperature for 18 hours. After completion of the reaction, the reaction solution was diluted with 300 ml of AcOH followed by washing 4 times with 100 ml of cold 5% hydrochloric acid and twice with 100 ml of saturated sodium chloride aqueous solution. After drying over anhydrous magnesium sulfate and decoloring with activated charcoal, the AcOEt phase was distilled under reduced pressure. The residue was recrystallized from MeOH/AcOEt/ether to give 1.86 g (53.4%) of Z-PyroGlu-Pro-Arg(NO2)-CHA.

reactant | HCl | 5.0 mmols, 2.25 g | Cl | ClH
reactant | H-Pro-Arg(NO2) | N1[C@H](C(=O)N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)O)CCC1 | C11H20N6O5
reactant | Z-PyroGlu | 5.0 mmols, 1.93 g | N1([C@@H](CCC1=O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C13H13NO5
solvent | DMF | CN(C)C=O | C3H7NO
solvent | AcOH | 300 ml | CC(=O)O | C2H4O2
product | Z-PyroGlu-Pro-Arg(NO2) | 1.86 g, 53.4% | N1([C@@H](CCC1=O)C(=O)N1[C@H](C(=O)N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)O)CCC1)C(=O)OCC1=CC=CC=C1 | C24H31N7O9
